US08580762B2
(1R,2S,3R,5R)-3-(4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-5-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(methyl)amino)methyl)cyclopentane-1,2-diol
Trifluoroacetic Acid (5 ml) added to a mixture of Water (0.5 ml) and 7-((3aS,4R,6R,6aR)-6-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(methyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (0.20 g, 0.28 mmol) at RT. The reaction was allowed to proceed overnight upon which it was quenched with Triethylsilane (0.088 ml, 0.55 mmol). The volatiles were removed in vacuo and resulting residue was partitioned between saturated NaHCO3 and DCM/MeOH (10:1). Aqueous extracted 3× more with DCM/MeOH (10:1) and combined organics were dried over MgSO4, filtered, concentrated and purified by flash chromatography (DCM/7N NH3 in MeOH 87:13) to give the desired product as an off-white foam (0.060 g). MS (ESI−) for C30H41N7O2 m/z 532.3 [M+H]+; MS (ESI−) for C30H41N7O2 m/z 530.4 [M−H]−; HPLC purity >94% (ret. time, 2.723 min.)

reactant | Trifluoroacetic Acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 7-((3aS,4R,6R,6aR)-6-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(methyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.28 mmol, 0.20 g | C(C)(C)(C)C1=CC2=C(NC(=N2)CCC2CC(C2)N(C)C[C@H]2C[C@H]([C@H]3[C@@H]2OC(O3)(C)C)N3C=CC2=C3N=CN=C2NCC2=C(C=C(C=C2)OC)OC)C=C1 | C42H55N7O4
reactant | Triethylsilane | 0.55 mmol, 0.088 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | Water | 0.5 ml | O | H2O
product | (1R,2S,3R,5R)-3-(4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-5-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(methyl)amino)methyl)cyclopentane-1,2-diol | 0.060 g | NC=1C2=C(N=CN1)N(C=C2)[C@H]2[C@@H]([C@@H]([C@H](C2)CN(C)C2CC(C2)CCC2=NC1=C(N2)C=CC(=C1)C(C)(C)C)O)O | C30H41N7O2
